US05177075
5-Methoxy-3-phenyl-1(2H)-isoquinolinone
To a solution of 4.53 mmol of LDA at -78° (generated by adding a 3 ml of 1.55M n-butyllithium in n-hexane to 0.33 g of diethylamine in 5 ml of THF) was added 1.0 g (4.52 mmol) of N,N-diethyl-3-methoxy-2-methylbenzamide in 10 ml THF. Then a solution of 4.53 mmol of trimethylsilyl benzylamine [generated from 0.81 (4.53 mmol) of hexamethyldisilazane in 2 ml of n-hexane added to 3 ml of 1.55N n-butyllithium followed by the addition of 0.48 g (4.53 mmol) of benzaldehyde in 2 ml of n-hexane] was added and stirring continued at -78° for two hours and then at room temperature for one hour. The reaction was cooled to 0° and 50 ml of 1N HCl was added. The red-purple solution became yellow. The mixture was extracted with ether, the ether extracts were washed with 1N HCl, dried (MgSO4), and concentrated. The residue was triturated with ethanol to give 0.17 g (15%) of product; mp 227°-231°.

reactant | LDA | 4.53 mmol | [Li+].CC(C)[N-]C(C)C
reactant | n-butyllithium | 1.55M, 3 ml | C(CCC)[Li]
reactant | diethylamine | 0.33 g | C(C)NCC | C4H11N
reactant | N,N-diethyl-3-methoxy-2-methylbenzamide | 4.52 mmol, 1.0 g | C(C)N(C(C1=C(C(=CC=C1)OC)C)=O)CC | C13H19NO2
reactant | trimethylsilyl benzylamine | 4.53 mmol | C[Si](C)(C)NCC1=CC=CC=C1 | C10H17NSi
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 1.55N, 3 ml | C(CCC)[Li]
reactant | benzaldehyde | 4.53 mmol, 0.48 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 2 ml | CCCCCC | C6H14
solvent | n-hexane | 2 ml | CCCCCC | C6H14
product | 5-Methoxy-3-phenyl-1(2H)-isoquinolinone | 0.17 g, 15% | COC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=CC=C1 | C16H13NO2
